US09238640B2
Preparation of 2-(4-((4-(Isopropylamino)piperidin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A solution of 2-(4-((4-isopropylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.470 g, 0.98 mmol) in 2N HCl (20 mL) was refluxed for 3 days. The resulting mixture was basified with 2N NaOH and extracted with CH2Cl2. The organics were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 30% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, afforded the title compound (0.090 g, 21%) as a light yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 8.12 (d, J=8.3 Hz, 2H), 7.42 (d, J=8.3 Hz, 2H), 6.73 (d, J=2.3 Hz, 1H), 6.53 (d, J=2.3 Hz, 1H), 3.89 (s, 3H), 3.85 (s, 3H), 3.50 (s, 2H), 2.86-2.92 (m, 1H), 2.73-2.77 (m, 2H), 1.85-2.01 (m, 2H), 1.72-1.77 (m, 2H), 1.09-1.38 (m, 4H), 0.94 (d, J=6.2 Hz, 6H). ESI/APCI MS m/z 437 [M+H]+.

reactant | 2-(4-((4-isopropylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.98 mmol, 0.470 g | C(C)(C)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H30N4O3
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 2N, 20 mL | Cl | ClH
product | 2-(4-((4-(Isopropylamino)piperidin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.090 g, 21% | C(C)(C)NC1CCN(CC1)CC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C25H32N4O3
